US08871756B2
N-(3-Aminooxetan-3-ylmethyl)-2-chloro-6-methylquinazolin-4-amine
A solution of 2,4-dichloro-6-methylquinazoline (645 mg, 3 mmol) and 3-(aminomethyl)oxetan-3-amine (340 mg, 3.3 mmol) in methanol (15 mL) was stirred at room temperature overnight. After the resulting mixture was concentrated in vacuo, the residue was purified by column chromatography (eluting with 10% methanol in dichloromethane) to afford the desired product.

reactant | 2,4-dichloro-6-methylquinazoline | 3 mmol, 645 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 3-(aminomethyl)oxetan-3-amine | 3.3 mmol, 340 mg | NCC1(COC1)N | C4H10N2O
solvent | methanol | 15 mL | CO | CH4O
product | N-(3-Aminooxetan-3-ylmethyl)-2-chloro-6-methylquinazolin-4-amine | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)Cl | C13H15ClN4O
